US05869527
In this reaction scheme, methyl 6-bromohexanoate is alkylated with methyl glycine in the presence of sodium hydride to afford the 6-[(carboxymethyl)amino]hexanoic acid. Treatment of 6-[(carboxymethyl)amino]hexanoic acid with sodium hydroxide affords the corresponding 6-[(carboxymethyl)amino]hexanoic acid disodium salt.

reactant | methyl 6-bromohexanoate | BrCCCCCC(=O)OC | C7H13BrO2
reactant | methyl glycine | CNCC(=O)O | C3H7NO2
reactant | sodium hydride | [H-].[Na+]
product | 6-[(carboxymethyl)amino]hexanoic acid | C(=O)(O)CNCCCCCC(=O)O | C8H15NO4
